US06251912B1
n-Butyl lithium in hexane (28.8 mL, 2.5 M in n-hexane) was slowly added to diisopropyl-prop-2-ynyl-amine (10.0 g, 72 mmol) in 70 mL of tetrahydrofuran under nitrogen. The mixture was stirred for 1 hr at −78° C., then dry carbon dioxide was passed through overnight. The resulting solution was poured into water and washed with ethyl acetate. The aqueous layer was evaporated under reduced pressure to give the crude acid. The dry acid was dissolved in methanol, and the insoluble salt was removed via filtration. The filtrate was collected and dried in vacuo to give 11 g of 4-diisopropylamino-but-2-ynoic acid: mass spectrum (m/e): M−H 182.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | diisopropyl-prop-2-ynyl-amine | 72 mmol, 10.0 g | C(C)(C)N(CC#C)C(C)C | C9H17N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | O | H2O
solvent | hexane | 2.5 M, 28.8 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 4-diisopropylamino-but-2-ynoic acid | 11 g | C(C)(C)N(CC#CC(=O)O)C(C)C | C10H17NO2
